US08003800B2
To a mixture of 4-isobutyl-5-methyl-thiophene-2-carboxylic acid (505 mg, 2.55 mmol), 4-allyloxy-N-hydroxy-2-methoxy-benzamidine (611 mg, 2.75 mmol) and DIPEA (377 mg, 2.92 mmol) in DMF (10 mL) is added TBTU (882 mg, 2.75 mmol). The mixture is stirred at rt for 15 h before it is diluted with diethyl ether (100 mL) and washed with 1 N aq. NaOH (2×30 mL), 1 M aq. KHSO4 (30 mL) and brine (30 mL). The organic extract is dried (Na2SO4), filtered and evaporated. The yellow oily residue is dissolved in dry toluene (10 mL) and heated at 150° C. for 20 min in a microwave oven. The mixture is poured into diethyl ether (100 mL) and washed with brine (75 mL). The organic extract is dried (Na2SO4), filtered and evaporated to give 3-(4-allyloxy-2-methoxy-phenyl)-5-(4-isobutyl-5-methyl-thiophen-2-yl)-[1,2,4]oxadiazole (609 mg) as a yellow solid; LC-MS: tR=1.19 min, [M+1]=385.23.

reactant | 4-isobutyl-5-methyl-thiophene-2-carboxylic acid | 2.55 mmol, 505 mg | C(C(C)C)C=1C=C(SC1C)C(=O)O | C10H14O2S
reactant | 4-allyloxy-N-hydroxy-2-methoxy-benzamidine | 2.75 mmol, 611 mg | C(C=C)OC1=CC(=C(C(=N)NO)C=C1)OC | C11H14N2O3
reactant | DIPEA | 2.92 mmol, 377 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | TBTU | 2.75 mmol, 882 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 3-(4-allyloxy-2-methoxy-phenyl)-5-(4-isobutyl-5-methyl-thiophen-2-yl)-[1,2,4]oxadiazole | 609 mg | C(C=C)OC1=CC(=C(C=C1)C1=NOC(=N1)C=1SC(=C(C1)CC(C)C)C)OC | C21H24N2O3S
